US20010021718A1
tert-butyl (3R)-6-cyclohexyl-3-[3-(4-pyridinylmethyl)-1,2,4-oxadiazol-5-yl]hexanoate
A solution of tert-butyl (3R)-3-[({[(Z)-1-amino-2-(4-pyridinyl)ethylidene]amino}oxy)carbonyl]-6-cyclohexylhexanoate (Preparation 104) (840 mg, 1.60 mmol) in xylene (15 ml) was heated at 130° C. for 4.5 hours. After cooling to room temperature the reaction mixture was purified by column chromatography on silica gel eluting with a gradient system of 90:10 (pentane:ethyl acetate) gradually changing to 50:50 (pentane:ethyl acetate) to afford the title compound as a yellow oil (420 mg).

reactant | tert-butyl (3R)-3-[({[(Z)-1-amino-2-(4-pyridinyl)ethylidene]amino}oxy)carbonyl]-6-cyclohexylhexanoate | 1.60 mmol, 840 mg | N\C(\CC1=CC=NC=C1)=N/OC(=O)[C@@H](CC(=O)OC(C)(C)C)CCCC1CCCCC1 | C24H37N3O4
solvent | xylene | 15 ml | C=1(C(=CC=CC1)C)C | C8H10
product | tert-butyl (3R)-6-cyclohexyl-3-[3-(4-pyridinylmethyl)-1,2,4-oxadiazol-5-yl]hexanoate | 420 mg | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)CC1=CC=NC=C1 | C24H35N3O3
